US07279600B2
4′-Hydroxy-2-methyl-1,1′-biphenyl-4-carbaldehyde
The title compound was prepared by reacting trifluoro-methanesulfonic acid 4-formyl-2-methyl-phenyl ester (9.3 mmol) with 4-tert-butyl-dimethylsilyoxyphenylboronic acid (2.35 g, 9.3 mmol) according to Method B to yield 1.12 mg (57%, over two steps) of yellowish solid: mp 94-96° C.; 1H NMR (DMSO-d6): ): δ 2.33 (3H, s), 6.86 (2H, d, J=8.55 Hz), 7.22 (2H, d, J=8.51 Hz), 7.39 (1H, d, J=7.81 Hz), 7.61 (1H, d, J=7.82 Hz), 7.81 (1H, s), 9.65 (1H, s), 10.00 (1H, s); IR 1670 cm−1; MS (ESI) m/z 211 (M−H)−, 213 (M+H)+.

reactant | trifluoro-methanesulfonic acid 4-formyl-2-methyl-phenyl ester | 9.3 mmol | C(=O)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C9H7F3O4S
reactant | 4-tert-butyl-dimethylsilyoxyphenylboronic acid | 9.3 mmol, 2.35 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)B(O)O | C12H21BO3Si
product | 4′-Hydroxy-2-methyl-1,1′-biphenyl-4-carbaldehyde | OC1=CC=C(C=C1)C1=C(C=C(C=C1)C=O)C | C14H12O2
